US04007223
600 g of p-nitrotoluene were oxidized in 2700 ml of glacial acetic acid by the method described above, in the presence of 8 g of KBr and amounts of 5 g, 10 g, 15 g, 20 g, 30 g, 40 g and 50 g of cobalt(II) acetate tetrahydrate in Examples 1 to 7, respectively. The reaction temperature was increased to 180° to 200° C after the start-up temperature was reached, and then held constant until the absorption of oxygen had ceased. The start-up temperatures and yields of the p-nitrobenzoic acid identified by the infrared spectrum are to be found in Table I.

reactant | p-nitrotoluene | 600 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | KBr | 8 g | [K+].[Br-]
reactant | acetic acid | 2700 ml | C(C)(=O)O | C2H4O2
catalyst | cobalt(II) acetate tetrahydrate | 50 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | p-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
